US08791267B2
Synthesis of 1-[5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-ethylamine dihydrochloride (P-606-diHCl):
In an 8 mL vial equipped with a stir bar was placed 1-[5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-ethylamine (P-606, 115 mg, 0.311 mmol), diethyl ether (3 mL), 1,4-dioxane (300 uL) and 2M HCl in diethyl ether (600 uL). The mixture was stirred at ambient temperature for 15 minutes, the solid was collected, washed with diethyl ether (3 mL) and dried to produce 98 mg of P-606-diHCl as a light tan solid in 71% yield.

reactant | 1-[5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-ethylamine | 0.311 mmol, 115 mg | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC=1C=CC(=NC1)C(C)N)F | C21H20ClFN2O
reactant | 1,4-dioxane | 300 uL | O1CCOCC1 | C4H8O2
reactant | HCl | 2M | Cl | ClH
solvent | diethyl ether | 600 uL | C(C)OCC | C4H10O
solvent | diethyl ether | 3 mL | C(C)OCC | C4H10O
product | 1-[5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-ethylamine dihydrochloride | 71% yield | Cl.Cl.ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC=1C=CC(=NC1)C(C)N)F | InChI=1S/C21H20ClFN2O.2ClH/c1-13(24)18-8-6-14(12-25-18)10-16-7-9-19(26-2)20(21(16)23)15-4-3-5-17(22)11-15;;/h3-9,11-13H,10,24H2,1-2H3;2*1H
